US07368572B2
To a solution of methyl 3-bromomethylbenzofuran-2-carboxylate (269 mg, 1.0 mmol) in DMF was added dimethylamine (2M solution in THF, 1.5 ml, 3 mmol). The reaction mixture was stirred for 1-2 h, diluted with ethyl acetate (50 ml), washed twice with saturated aqueous sodium bicarbonate solution (50 ml) and finally with brine (50 ml). The organic extract was dried over sodium sulfate and then concentrated in vacuo. Purification by flash chromatography on silica gel (5% methanol in dichloromethane) gave methyl 3-dimethylaminomethylbenzofuran-2-carboxylate (131 mg, 0.57 mmol).

reactant | methyl 3-bromomethylbenzofuran-2-carboxylate | 1.0 mmol, 269 mg | BrCC1=C(OC2=C1C=CC=C2)C(=O)OC | C11H9BrO3
reactant | dimethylamine | 3 mmol, 2M, 1.5 ml | CNC | C2H7N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-dimethylaminomethylbenzofuran-2-carboxylate | 0.57 mmol, 131 mg | CN(C)CC1=C(OC2=C1C=CC=C2)C(=O)OC | C13H15NO3
